US04745124
N-(3-benzoylthiopropanoyl)-L-alanine (4.2 g) is dissolved in a mixture of water (7.5 ml) and concentrated ammonium hydroxide (6 ml). After one hour, the mixture is diluted with water, filtered and the filtrate is extracted with ethyl acetate. The aqueous phase is acidified with concentrated hydrochloric acid and extracted with ethyl acetate. The organic phase is washed with water, dried and concentrated to dryness in vacuo. The residue is crystallized from ethyl acetate-hexane to yield 1.87 g of N-(3-mercaptopropanoyl)-L-alanine, m.p. 79°-81°.

reactant | N-(3-benzoylthiopropanoyl)-L-alanine | 4.2 g | C(C1=CC=CC=C1)(=O)SCCC(=O)N[C@@H](C)C(=O)O | C13H15NO4S
solvent | water | 7.5 ml | O | H2O
solvent | ammonium hydroxide | 6 ml | [OH-].[NH4+]
product | N-(3-mercaptopropanoyl)-L-alanine | 1.87 g | SCCC(=O)N[C@@H](C)C(=O)O | C6H11NO3S
